Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],5.20789293032
[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-5.787437565479999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],4.02130733431
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[O:10][H:11].[H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.93880919299
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.25753990391
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],3.3675813758
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],7.0607320960000015
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:4]([H:5])=[O:9].[O:1]([C:2]([H:3])[C:6]#[C:7][H:8])[H:10],2.8226297093
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.65438731044
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.20819415872
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2][C:3]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:4],9.75527397952
[H:12].[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.63758584965
[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.263009955709999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],5.14355852056
[H:1][C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.58323026253
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.29254059951
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11],-2.14844018277
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:7],3.28901902701
[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.87694186196
[C:9]([H:10])#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.34146521624
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.81974833735
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[C:4])[O:10][H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10][H:11],-5.678374765040001
[C:1]=[C:2]([C:3]#[C:4][H:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11]>>[C:1]=[C:2]1[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.8694547575
[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.34566612997
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.86509744
[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12],-1.0175558916299998
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.71099809735
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],1.95385973335
